US06960586B2
Production of 7-[1-hydroxy-1-(1H-imidazol-4-yl)propyl]-2-methyl-1,2-dihydro-3H-benzo[e]isoindol-3-one
By the reaction in the same manner as in Example 18 using 7-bromo-2-methyl-1,2-dihydro-3H-benzo[e]isoindol-3-one (0.14 g) and 1-(1-trityl-1H-imidazol-4-yl)-1-propanone (0.17 g), the title compound (0.10 g) was obtained.

reactant | 7-bromo-2-methyl-1,2-dihydro-3H-benzo[e]isoindol-3-one | 0.14 g | BrC1=CC2=C(C=3CN(C(C3C=C2)=O)C)C=C1 | C13H10BrNO
reactant | 1-(1-trityl-1H-imidazol-4-yl)-1-propanone | 0.17 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C(CC)=O | C25H22N2O
product | 7-[1-hydroxy-1-(1H-imidazol-4-yl)propyl]-2-methyl-1,2-dihydro-3H-benzo[e]isoindol-3-one | 0.10 g | OC(CC)(C=1N=CNC1)C1=CC2=C(C=3CN(C(C3C=C2)=O)C)C=C1 | C19H19N3O2
